US08809339B2
methyl 3-((3-((2-((2-phenylpyrimidin-5-yl)carbamoyl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzyl)thio)propanoate
To a solution of 2-amino-N-(2-phenylpyrimidin-5-yl)-5-(piperidin-1-yl)benzamide (138 mg, 0.37 mmol, 1.00 equiv) in tetrahydrofuran (6 mL) was added methyl 3-(3-(chlorocarbonyl)benzylthio)propanoate (112 mg, 0.41 mmol, 1.10 equiv) and pyridine (60 mg, 0.76 mmol, 2.00 equiv) and the resulting solution was stirred for 5 h at room temperature. The reaction progress was monitored by LCMS. The crude product was used directly in the next step.

reactant | 2-amino-N-(2-phenylpyrimidin-5-yl)-5-(piperidin-1-yl)benzamide | 0.37 mmol, 138 mg, 1.00 equiv | NC1=C(C(=O)NC=2C=NC(=NC2)C2=CC=CC=C2)C=C(C=C1)N1CCCCC1 | C22H23N5O
reactant | methyl 3-(3-(chlorocarbonyl)benzylthio)propanoate | 0.41 mmol, 112 mg, 1.10 equiv | ClC(=O)C=1C=C(CSCCC(=O)OC)C=CC1 | C12H13ClO3S
reactant | pyridine | 0.76 mmol, 60 mg, 2.00 equiv | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | methyl 3-((3-((2-((2-phenylpyrimidin-5-yl)carbamoyl)-4-(piperidin-1-yl)phenyl)carbamoyl)benzyl)thio)propanoate | C1(=CC=CC=C1)C1=NC=C(C=N1)NC(=O)C1=C(C=CC(=C1)N1CCCCC1)NC(=O)C=1C=C(CSCCC(=O)OC)C=CC1 | C34H35N5O4S
